US05563162
Trifluoroacetic acid (3 ml) was added to ethyl 4-[N-tert-butoxycarbonyl-N-(2-methoxyethyl)amino]cinnamate (932 mg) in ice water bath and stirred for 15 minutes at same temperature. The solvent was evaporated under reduced pressure. The residue was partitioned between ethyl acetate and aqueous sodium bicarbonate solution. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was chromatographed on silica gel eluting to a mixture of n-hexane and ethyl acetate (3:1) and recrystallized from a mixture of n-hexane and ethyl acetate to give ethyl 4-(2-methoxyethylamino)cinnamate (470 mg) as crystals.

reactant | Trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 4-[N-tert-butoxycarbonyl-N-(2-methoxyethyl)amino]cinnamate | 932 mg | C(C)(C)(C)OC(=O)N(CCOC)C1=CC=C(C=CC(=O)OCC)C=C1 | C19H27NO5
product | ethyl 4-(2-methoxyethylamino)cinnamate | 470 mg | COCCNC1=CC=C(C=CC(=O)OCC)C=C1 | C14H19NO3
